US08017601B2
N-(6-(1H-indazol-4-yl)naphthalen-2-yl)thiophene-3-carboxamide
4-bromo-1H-indazole (37.9 mg, 0.192 mmol), N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide (145.7 mg, 0.384 mmol), Fibercat palladium catalyst (Johnson-Matthey, 64.7 mg), and K2CO3 (2 M in water, 0.75 ml, 1.5 mmol) were combined in a microwave reaction vessel and 1,4-dioxane (2.3 ml) was added. The reaction tube was sealed and heated in the microwave (CEM microwave) at 60 Watts and 85 C for 20 minutes. The reaction was then cooled to room temperature, diluted with water (5 ml), and extracted with EtOAc (3×10 ml). The organic extracts were combined, washed with water (3×5 ml), dried over sodium sulfate, filtered, concentrated, and purified via silica gel (Biotage instrument, 13%->75% EtOAc/hexanes). This crude material was then purified via HPLC (10%->95% MeCN/water with 0.1% TFA) to afford title compound (7.4 mg, 10%). MS (ESI pos. ion) m/z: 370 (M+H). Calc'd Exact Mass for C22H15N3OS: 369.

reactant | 4-bromo-1H-indazole | 0.192 mmol, 37.9 mg | BrC1=C2C=NNC2=CC=C1 | C7H5BrN2
reactant | N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide | 0.384 mmol, 145.7 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1)C | C21H22BNO3S
reactant | K2CO3 | 1.5 mmol, 2 M, 0.75 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 2.3 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | 64.7 mg | [Pd] | Pd
solvent | water | 5 ml | O | H2O
product | N-(6-(1H-indazol-4-yl)naphthalen-2-yl)thiophene-3-carboxamide | 7.4 mg, 10% | N1N=CC2=C(C=CC=C12)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1 | C22H15N3OS
